US07320993B1
a) N1-benzhydryl-N1,N2-dimethyl-ethan-1,2-diamine
15.1 g (171 mmol) N,N′-dimethylethylenediamine, 35 g (255 mmol) potassium carbonate are placed in 250 ml DMF and 30.9 g (125 mmol) benzhydryl bromide are added dropwise at RT. The mixture is concentrated under vacuum. The residue is taken up in chloroform and washed with water. The organic phase is dried over sodium sulfate and the solvent is removed under vacuum. The purification occurs by chromatography on silica gel with chloroform: Yield 14.5 g (45%).

reactant | N,N′-dimethylethylenediamine | 171 mmol, 15.1 g | CNCCNC | C4H12N2
reactant | potassium carbonate | 255 mmol, 35 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzhydryl bromide | 125 mmol, 30.9 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C13H11Br
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | N1-benzhydryl-N1,N2-dimethyl-ethan-1,2-diamine | C(C1=CC=CC=C1)(C1=CC=CC=C1)N(CCNC)C | C17H22N2
